US04294960
A suspension of 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid (anti isomer, 2.5 g.), conc. hydrochloric acid (2.5 ml.) and methanol (38 ml.) was stirred at room temperature for two hours. After treating the resultant solution with activated charcoal, the solution was concentrated in vacuo. The residue was crystallized out with diisopropyl ether (100 ml.), and the precipitates were collected by filtration, and washed with diisopropyl ether (30 ml.) to give 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid hydrochloride (anti isomer, 2.1 g.). The crystals were added to water (20 ml.) and adjusted to pH 6.0 with sodium bicarbonate. The solution was subjected to column chromatography on nonionic adsorption resin "Diaion HP-20" [Trademark: manufactured by Mitsubishi Chemical Industries Ltd.] (75 ml.) with 10% diisopropyl ether. The eluate was adjusted to pH 3.5 with 10% hydrochloric acid, and the precipitates were collected by filtration and dried to give 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid (anti isomer, 0.7 g.).

reactant | 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid | 2.5 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOC | C14H13N5O6S2
reactant | hydrochloric acid | 2.5 ml | Cl | ClH
reactant | charcoal | C | CH4
solvent | methanol | 38 ml | CO | CH4O
product | 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid hydrochloride | 2.1 g | Cl.NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOC | InChI=1S/C13H13N5O5S2.ClH/c1-23-17-7(5-4-25-13(14)15-5)9(19)16-8-10(20)18-6(12(21)22)2-3-24-11(8)18;/h2,4,8,11H,3H2,1H3,(H2,14,15)(H,16,19)(H,21,22);1H/t8?,11-;/m1./s1
